US04719200
N-benzylsulfonyl-L-alanyl-L-prolyl-L-proline N-alanyl-L-prolyl-L-proline (3.00 g, 10.6 m mole) was dissolved in 1N aqueous sodium hydroxide (21.2 ml, 21.2 m mole), and benzylsulfonylchloride (2.02 g, 10.6 m mole)-ether (10 ml) solution was added dropwise thereto while stirring and cooling with ice over 15 minutes. Thus obtained reaction solution was further stirred for 3 hours at room temperature, and the ether layer was separated. The water layer was washed with ether (10 ml) again. The water layer was mixed with ethyl acetate (20 ml), and then adjusted to pH 1.0 with 6N hydrochloric acid while stirring. The ethyl acetate layer was separated, and the water layer was further extracted with ethyl acetate (20 ml). The ethyl acetate layers were combined and washed with 10% aqueous sodium chloride (20 ml), and dried over anhydrous sodium sulfate. The ethyl acetate was removed by distillation under reduced pressure therefrom. Ether was added to the syrupy residue as produced above to effect crystallization. The thus produced crystals were obtained by filtration and washed sufficiently with ether, and dried under reduced pressure to give white crystals of N-benzylsulfonyl-L-alanyl-L-prolyl-L-proline (1.41 g).

reactant | N-benzylsulfonyl-L-alanyl-L-prolyl-L-proline N-alanyl-L-prolyl-L-proline | 3.00 g | N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1.C(C1=CC=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1
reactant | benzylsulfonylchloride | 2.02 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | sodium hydroxide | 1N, 21.2 ml | [OH-].[Na+]
product | N-benzylsulfonyl-L-alanyl-L-prolyl-L-proline | 1.41 g | C(C1=CC=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C20H27N3O6S
